US05506235
A. 4-Chloroquinolin-6-ol Hydrobromide
In a flame dried three-neck 50 mL round bottom flask equipped with a rubber septum and a mechanical stirrer, and under a nitrogen atmosphere at room temperature, 4.0 mL of 1.0M boron tribromide in dichloromethane (Aldrich Chemical Co.) was added portionwise through gas tight syringe to a solution of 727 mg (3.75 mmol) of 4-chloro-8-methoxyquinoline and 5.0 mL of dichloromethane. A thick solid formed immediately and after 0.5 hour of stirring another 4.0 mL portion of boron tribromide solution was added and stirring was continued overnight. The reaction mixture was treated dropwise with methanol. The solution was evaporated under reduced pressure, and the residue titurated with dichloromethane and filtered to afford 844 mg (86%) of the title compound: m.p. 243°-244° C.

reactant | boron tribromide | 1.0M, 4.0 mL | B(Br)(Br)Br | BBr3
reactant | 4-chloro-8-methoxyquinoline | 3.75 mmol, 727 mg | ClC1=CC=NC2=C(C=CC=C12)OC | C10H8ClNO
reactant | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | 4-Chloroquinolin-6-ol Hydrobromide | 844 mg, 86% | Br.ClC1=CC=NC2=CC=C(C=C12)O | InChI=1S/C9H6ClNO.BrH/c10-8-3-4-11-9-2-1-6(12)5-7(8)9;/h1-5,12H;1H
